US07081538B1
(5RS)-3-(4-((2S)-2,3-Dihydroxypropanoyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(3-isoxazolylaminomethyl)4,5-dihydro-isoxazole
(5RS)-3-(4-(1,2,5,6-Tetrahydropyrid-4-yl)phenyl)-5-(3-isoxazolylaminomethyl)-4,5-dihydro-isoxazole dihydrochloride (397 mg, 1 mM) was suspended by stirring in acetonitrile (15 ml) under nitrogen, triethylamine (404 mg, 4 mM) added, and the mixture cooled to 0° C. (4S)-2,2-Dimethyl-1,3-dioxolan-4-ylcarbonyl chloride (328 mg, 2 mM) was added dropwise, stirring continued for 30 minutes at 0° C., then for 18 hours allowing the temperature to rise to ambient. Solvent was evaporated, the residue treated with water (25 ml) and extracted into dichloromethane (4×20 ml). The extracts were washed with brine (25 ml), dried (magnesium sulfate), and evaporated. The residue was dissolved in tetrahydrofuran (40 ml), treated with hydrochloric acid (2N, 2 ml), and stirred 48 hours at ambient temperature. Potassium carbonate (2 g) was added, the mixture stirred 30 minutes and filtered. After removal of solvent, the residue was chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient from 5 to 10% methanol in dichloromethane. Relevant fractions were combined to give the desired product (125 mg). MS (ESP): 413 (MH+) for C21H24N4O5 NMR (CDCl3) δ: 2.54 (br, 2H); 3.18 (dd, 1H); 3.26 (m overlapped by H2O, 2H); 3.47 (dd, 2H); 3.55 (m, 1H); 3.74 (m, 2H); 4.13 (br, 1H); 4.26 (m, 1H); 4.38 (m, 1H); 4.67 (d, 1H); 4.89 (overlapping m, 2H); 5.96 (d, 1H); 6.26 (br, 1H); 6.37 (t, 1H); 7.50 (d, 2H); 7.62 (d, 2H); 8.34 (d, 1H).

reactant | (5RS)-3-(4-(1,2,5,6-Tetrahydropyrid-4-yl)phenyl)-5-(3-isoxazolylaminomethyl)-4,5-dihydro-isoxazole dihydrochloride | 1 mM, 397 mg | Cl.Cl.N1CC=C(CC1)C1=CC=C(C=C1)C1=NOC(C1)CNC1=NOC=C1
reactant | triethylamine | 4 mM, 404 mg | C(C)N(CC)CC | C6H15N
reactant | (4S)-2,2-Dimethyl-1,3-dioxolan-4-ylcarbonyl chloride | 2 mM, 328 mg | CC1(OC[C@H](O1)C(=O)Cl)C | C6H9ClO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (5RS)-3-(4-((2S)-2,3-Dihydroxypropanoyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(3-isoxazolylaminomethyl)4,5-dihydro-isoxazole | 125 mg | O[C@H](C(=O)N1CC=C(CC1)C1=CC=C(C=C1)C1=NOC(C1)CNC1=NOC=C1)CO | C21H24N4O5
